US05262420
Preparation of 1-(3-trifluoromethylphenyl)-4-(3-methyl-4-pyridyl)-pentane
1.83 g (15.1 mmol) of 3-methyl-4-ethylpyridine and 4.03 g (15.1 mmol) of 1-bromo-3-(3-trifluoromethylphenyl)-propane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 2.20 g of the desired compound (yield: 47.5%).

reactant | 3-methyl-4-ethylpyridine | 15.1 mmol, 1.83 g | CC=1C=NC=CC1CC | C8H11N
reactant | 1-bromo-3-(3-trifluoromethylphenyl)-propane | 15.1 mmol, 4.03 g | BrCCCC1=CC(=CC=C1)C(F)(F)F | C10H10BrF3
product | 1-(3-trifluoromethylphenyl)-4-(3-methyl-4-pyridyl)-pentane | 2.20 g, yield: 47.5% | FC(C=1C=C(C=CC1)CCCC(C)C1=C(C=NC=C1)C)(F)F | C18H20F3N
